US04880806
To 2-chloro-5,6-difluoro-3-nitrotoluene (54 mg) are added ethanol (0.3 ml) and water (0.03 ml) at 0° C. and thereto further added dropwise a solution of N-methylpiperazine (0.04 ml) and triethylamine (0.06 ml) in ethanol (0.1 ml) at room temperature. The mixture is stirred at room temperature for 5 hours, at 60° C. for 5 hours and further at 80° C. overnight. The reaction mixture is acidified with 2N hydrochloric acid and washed with a small amount of diethyl ether and then neutralized with aqueous saturated sodium hydrogen carbonate and extracted with dichloromethane. The extract is washed with water and aqueous saturated sodium chloride in this order and dried over anhydrous magnesium sulfate, and then dichloromethane is disilled off to give 2-chloro-5-fluoro-6-(4-methyl-1-piperazinyl)-3-nitrotoluene (35 mg).

reactant | 2-chloro-5,6-difluoro-3-nitrotoluene | 54 mg | ClC1=C(C(=C(C=C1[N+](=O)[O-])F)F)C | C7H4ClF2NO2
reactant | water | 0.03 ml | O | H2O
reactant | N-methylpiperazine | 0.04 ml | CN1CCNCC1 | C5H12N2
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | ethanol | 0.1 ml | C(C)O | C2H6O
solvent | ethanol | 0.3 ml | C(C)O | C2H6O
solvent | triethylamine | 0.06 ml | C(C)N(CC)CC | C6H15N
product | 2-chloro-5-fluoro-6-(4-methyl-1-piperazinyl)-3-nitrotoluene | 35 mg | ClC1=C(C(=C(C=C1[N+](=O)[O-])F)N1CCN(CC1)C)C | C12H15ClFN3O2
